US05502054
To a stirred solution of 3.9 g (0.023 mole) of 2-(4-chlorophenyl)propionaldehyde in 25 mL of 1,4-dioxane is added in one portion 9.0 g (0.026 mole) of (carbethoxymethylene)triphenylphosphorane. The reaction mixture is stirred for approximately 16 hours at ambient temperature after which the solvent is evaporated under reduced pressure, leaving a residue which is then dissolved in ethyl acetate. Approximately 10 g of silica gel is mixed with the resulting solution. The solvent is evaporated from this mixture, and the residue is placed in a sintered glass filter. The silica gel is then eluted with 100 mL of heptane/ethyl acetate (3:1). These solvents are evaporated under reduced pressure, leaving a residue. This residue is dissolved in 30 mL of heptane/ethyl acetate (9:1), treated with 5 g of silica gel, and filtered. The filtrate is evaporated under reduced pressure, leaving ethyl 4-(4-chlorophenyl)-2-pentenoate as a residue.

reactant | 2-(4-chlorophenyl)propionaldehyde | 0.023 mole, 3.9 g | ClC1=CC=C(C=C1)C(C=O)C | C9H9ClO
reactant | (carbethoxymethylene)triphenylphosphorane | 0.026 mole, 9.0 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | heptane ethyl acetate | 30 mL | CCCCCCC.C(C)(=O)OCC
product | ethyl 4-(4-chlorophenyl)-2-pentenoate | ClC1=CC=C(C=C1)C(C=CC(=O)OCC)C | C13H15ClO2
